US05124331
3,4-Dihydro-2-acetoxymethyl-3-(2-chlorophenyl)-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine
To 10.5 g of 3,4-dihydro-2-bromomethyl-3-(2-chlorophenyl)-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine were added 100 ml of dimethylformamide and 6.0 g of sodium acetate, and the mixture was stirred at 80° C. for 2 hours. The reaction mixture was poured onto water, and the mixture was extracted with ethyl acetate, washed with water and concentrated to give 8.7 g of the residue. This residue was purified by silica gel column chromatography to give 5.3 g of an oily substance, which was crystallized from ethanol to afford 3.4 g of the title compound, m.p. 192.5°-194° C.

reactant | 3,4-dihydro-2-bromomethyl-3-(2-chlorophenyl)-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine | 10.5 g | BrCC=1N(C(C2=C(N1)SC(=C2)S(N)(=O)=O)=O)C2=C(C=CC=C2)Cl | C13H9BrClN3O3S2
reactant | sodium acetate | 6.0 g | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3,4-Dihydro-2-acetoxymethyl-3-(2-chlorophenyl)-4-oxo-6-sulfamoylthieno[2,3-d]pyrimidine | 8.7 g | C(C)(=O)OCC=1N(C(C2=C(N1)SC(=C2)S(N)(=O)=O)=O)C2=C(C=CC=C2)Cl | C15H12ClN3O5S2
